### PR TITLE
Pancake misc lemmas

### PR DESCRIPTION
**Pull request by mktnk3**
Lemmas for Pancake compiler semantics correctness.

### CODE REVIEW

File: pancake/proofs/loop_to_wordProofScript.sml [hunk 1]
```diff
@@ -1485,4 +1485,532 @@ Proof
...
+(**** lab_pres for loop_to_word ****)
+
+Theorem loop_to_word_comp_SND_LE:
+  ∀ctxt prog l p r.
+    comp ctxt prog l = (p,r) ⇒
+    SND l ≤ SND r
+Proof
+  ho_match_mp_tac loop_to_wordTheory.comp_ind>>
+  rw[loop_to_wordTheory.comp_def]>>
+  rpt (FULL_CASE_TAC>>gs[])>>TRY (rveq>>gs[])>>
```
Comment (myreen) [inline pancake/proofs/loop_to_wordProofScript.sml:1738]: Avoid TRY. Why not just `gvs []` instead of `TRY (rveq>>gs[])`?

File: pancake/proofs/loop_to_wordProofScript.sml [hunk 2]
```diff
@@ -1485,4 +1485,532 @@ Proof
...
+Theorem loop_to_word_comp_extract_labels_len:
+  ∀ctxt prog l p r.
+    comp ctxt prog l = (p,r) ⇒
+    LENGTH (extract_labels p) = SND r - SND l
+Proof
+  ho_match_mp_tac loop_to_wordTheory.comp_ind>>
+  rw[loop_to_wordTheory.comp_def]>>
+  gs[wordPropsTheory.extract_labels_def]
+  >- (
+  pairarg_tac>>gs[]>>
```
Comment (myreen) [inline pancake/proofs/loop_to_wordProofScript.sml:1752]: Indentation is off here. Click tab in Emacs and this'll be fixed.

File: pancake/proofs/loop_to_wordProofScript.sml [hunk 3]
```diff
@@ -1485,4 +1485,532 @@ Proof
...
+  pairarg_tac>>gs[]>>
+  rveq>>gs[wordPropsTheory.extract_labels_def]>>
+  drule loop_to_word_comp_SND_LE>>strip_tac>>
+  qpat_x_assum ‘_= (_, l')’ assume_tac>>
+  drule loop_to_word_comp_SND_LE>>strip_tac>>
+  gs[])>>
+  rpt (FULL_CASE_TAC>>gs[])>>
+  rveq>>gs[wordPropsTheory.extract_labels_def]>>
+  TRY (CASE_TAC>>gs[])>>
```
Comment (myreen) [inline pancake/proofs/loop_to_wordProofScript.sml:1769]: avoid TRY and attempt to avoid CASE_TAC, use AllCaseEqs() instead wherever possible

File: pancake/proofs/loop_to_wordProofScript.sml [hunk 4]
```diff
@@ -1485,4 +1485,532 @@ Proof
...
+      pairarg_tac>>gs[]>>
+      rveq>>gs[wordPropsTheory.extract_labels_def]>>
+      ‘FST l'' = FST l’ by metis_tac[comp_l_invariant]>>gs[]>>
+      drule loop_to_word_comp_SND_LE>>strip_tac>>
+      qpat_x_assum ‘_= (_, l'')’ assume_tac>>
+      drule loop_to_word_comp_SND_LE>>strip_tac>>
+      conj_tac>>gs[EVERY_EL]>>strip_tac>>strip_tac>>pairarg_tac>>gs[]
+      >- (first_x_assum $ qspec_then ‘n’ assume_tac>>gs[])>>
+      last_x_assum $ qspec_then ‘n’ assume_tac>>gs[])>>
+  rpt (FULL_CASE_TAC>>gs[])>>
```
Comment (myreen) [inline pancake/proofs/loop_to_wordProofScript.sml:1806]: one should strive to avoid CASE_TAC (in all its forms)

File: pancake/proofs/loop_removeProofScript.sml [hunk 5]
```diff
@@ -1863,4 +1863,85 @@ Proof
...
+  x ≤ FST prog ∧
+  EVERY (λp. x ≤ FST p) (SND prog) ⇒
+  (x ≤ FST s' ∧ EVERY (λp. x ≤ FST p) (SND s'))
+Proof
+  MAP_EVERY qid_spec_tac [‘s'’, ‘q2’, ‘prog’, ‘cont’, ‘p'’, ‘p’]>>
+  recInduct loop_removeTheory.comp_with_loop_ind>>rw[]>>
+  qpat_x_assum ‘comp_with_loop _ _ _ _ = _’ mp_tac>>
+  rewrite_tac[loop_removeTheory.comp_with_loop_def]>>
+  strip_tac>>fs[]>>
+  TRY (rpt (pairarg_tac>>fs[]))
```
Comment (myreen) [inline pancake/proofs/loop_removeProofScript.sml:1892]: Why `TRY` and `rpt`? Remove the outer TRY

File: pancake/proofs/loop_to_wordProofScript.sml [hunk 6]
```diff
@@ -1485,4 +1485,532 @@ Proof
...
+  no_install (FST wprog)
+Proof
+  MAP_EVERY qid_spec_tac [‘wprog’, ‘l’, ‘prog’, ‘ctxt’]>>
+  recInduct comp_ind>>
+  gs[comp_def, wordPropsTheory.no_install_def]>>
+  rw[]>>
+  TRY (pairarg_tac>>gs[]>>
+       pairarg_tac>>gs[]>>
+       gs[wordPropsTheory.no_install_def])>>
+  TRY (rpt (CASE_TAC>>gs[wordPropsTheory.no_install_def]))>>
```
Comment (myreen) [inline pancake/proofs/loop_to_wordProofScript.sml:1501]: TRY rpt again... delete the outer TRY

File: pancake/proofs/loop_to_wordProofScript.sml [hunk 7]
```diff
@@ -1485,4 +1485,532 @@ Proof
...
+QED
+
+Theorem loop_to_word_comp_func_no_install:
+  no_install (comp_func name params body)
+Proof
+  MAP_EVERY qid_spec_tac [‘wprog’, ‘name’, ‘params’, ‘body’]>>Induct>>
+  gs[comp_func_def]>>
+  gs[comp_def, wordPropsTheory.no_install_def]>>
+  rw[loop_to_word_comp_no_install]>>
+  TRY (last_x_assum (qspecl_then [‘params’, ‘name’] assume_tac)>>
```
Comment (myreen) [inline pancake/proofs/loop_to_wordProofScript.sml:1512]: please use >~ or >>~ to find the goal(s) instead of using TRY

File: pancake/proofs/loop_to_wordProofScript.sml [hunk 8]
```diff
@@ -1485,4 +1485,532 @@ Proof
...
+  no_alloc (FST wprog)
+Proof
+  MAP_EVERY qid_spec_tac [‘wprog’, ‘l’, ‘prog’, ‘ctxt’]>>
+  recInduct comp_ind>>
+  gs[comp_def, wordPropsTheory.no_alloc_def]>>
+  rw[]>>
+  TRY (pairarg_tac>>gs[]>>
+       pairarg_tac>>gs[]>>
+       gs[wordPropsTheory.no_alloc_def])>>
+  TRY (rpt (CASE_TAC>>gs[wordPropsTheory.no_alloc_def]))>>
```
Comment (myreen) [inline pancake/proofs/loop_to_wordProofScript.sml:1568]: same as above

File: pancake/proofs/loop_to_wordProofScript.sml [hunk 9]
```diff
@@ -1485,4 +1485,532 @@ Proof
...
+QED
+
+Theorem loop_to_word_comp_func_no_alloc:
+  no_alloc (comp_func name params body)
+Proof
+  MAP_EVERY qid_spec_tac [‘wprog’, ‘name’, ‘params’, ‘body’]>>Induct>>
+  gs[comp_func_def]>>
+  gs[comp_def, wordPropsTheory.no_alloc_def]>>
+  rw[loop_to_word_comp_no_alloc]>>
+  TRY (last_x_assum (qspecl_then [‘params’, ‘name’] assume_tac)>>
```
Comment (myreen) [inline pancake/proofs/loop_to_wordProofScript.sml:1579]: same as above

File: pancake/proofs/loop_to_wordProofScript.sml [hunk 10]
```diff
@@ -1485,4 +1485,532 @@ Proof
...
+       gs[loopLangTheory.acc_vars_def])>>
+  TRY (last_x_assum (qspecl_then [‘params’, ‘name’] assume_tac)>>
```
Comment (myreen) [inline pancake/proofs/loop_to_wordProofScript.sml:1581]: same as above

File: pancake/proofs/loop_to_wordProofScript.sml [hunk 11]
```diff
@@ -1485,4 +1485,532 @@ Proof
...
+  no_mt (FST wprog)
+Proof
+  MAP_EVERY qid_spec_tac [‘wprog’, ‘l’, ‘prog’, ‘ctxt’]>>
+  recInduct comp_ind>>
+  gs[comp_def, wordPropsTheory.no_mt_def]>>
+  rw[]>>
+  TRY (pairarg_tac>>gs[]>>
+       pairarg_tac>>gs[]>>
+       gs[wordPropsTheory.no_mt_def])>>
+  TRY (rpt (CASE_TAC>>gs[wordPropsTheory.no_mt_def]))>>
```
Comment (myreen) [inline pancake/proofs/loop_to_wordProofScript.sml:1635]: same as above

File: pancake/proofs/loop_to_wordProofScript.sml [hunk 12]
```diff
@@ -1485,4 +1485,532 @@ Proof
...
+Theorem loop_to_word_comp_func_no_mt:
+  no_mt (comp_func name params body)
+Proof
+  MAP_EVERY qid_spec_tac [‘wprog’, ‘name’, ‘params’, ‘body’]>>Induct>>
+  gs[comp_func_def]>>
+  gs[comp_def, wordPropsTheory.no_mt_def]>>
+  rw[loop_to_word_comp_no_mt]>>
+  TRY (last_x_assum (qspecl_then [‘params’, ‘name’] assume_tac)>>
+       gs[loopLangTheory.acc_vars_def])>>
+  TRY (last_x_assum (qspecl_then [‘params’, ‘name’] assume_tac)>>
```
Comment (myreen) [inline pancake/proofs/loop_to_wordProofScript.sml:1648]: same as above

File: pancake/proofs/loop_to_wordProofScript.sml [hunk 13]
```diff
@@ -1485,4 +1485,532 @@ Proof
...
+      ‘FST l'' = FST l’ by metis_tac[comp_l_invariant]>>gs[]>>
+      drule loop_to_word_comp_SND_LE>>strip_tac>>
+      qpat_x_assum ‘_= (_, l'')’ assume_tac>>
+      drule loop_to_word_comp_SND_LE>>strip_tac>>
+      conj_tac>>gs[EVERY_EL]>>strip_tac>>strip_tac>>pairarg_tac>>gs[]
+      >- (first_x_assum $ qspec_then ‘n’ assume_tac>>gs[])>>
+      last_x_assum $ qspec_then ‘n’ assume_tac>>gs[])>>
+  rpt (FULL_CASE_TAC>>gs[])>>
+  rveq>>gs[wordPropsTheory.extract_labels_def]>>
+  TRY (CASE_TAC>>gs[])>>
```
Comment (myreen) [inline pancake/proofs/loop_to_wordProofScript.sml:1808]: same as above

File: pancake/proofs/loop_to_wordProofScript.sml [hunk 14]
```diff
@@ -1485,4 +1485,532 @@ Proof
...
+      drule loop_to_word_comp_SND_LE>>strip_tac>>
+      qpat_x_assum ‘_= (_, l')’ assume_tac>>
+      drule loop_to_word_comp_extract_labels>>strip_tac>>
+      drule loop_to_word_comp_SND_LE>>strip_tac>>
+      gs[EVERY_MEM]>>
+      rpt (first_x_assum $ qspec_then ‘e’ assume_tac)>>gs[]>>
+      Cases_on ‘e’>>gs[])>>
+  rpt (FULL_CASE_TAC>>gs[])>>
+  rveq>>gs[wordPropsTheory.extract_labels_def]>>
+  TRY (CASE_TAC>>gs[])>>
```
Comment (myreen) [inline pancake/proofs/loop_to_wordProofScript.sml:1861]: same as above

File: pancake/proofs/loop_to_wordProofScript.sml [hunk 15]
```diff
@@ -1485,4 +1485,532 @@ Proof
...
+Theorem loop_to_word_comp_every_inst_ok_less:
+  ∀ctxt prog l.
+    byte_offset_ok c 0w ⇒
+    every_inst (inst_ok_less c) (FST (comp ctxt prog l))
+Proof
+  ho_match_mp_tac loop_to_wordTheory.comp_ind >>
+  rw[loop_to_wordTheory.comp_def,
+     wordPropsTheory.every_inst_def,
+     wordPropsTheory.inst_ok_less_def] >>
+  gs[]>>TRY (rpt (CASE_TAC>>gs[]))>>
```
Comment (myreen) [inline pancake/proofs/loop_to_wordProofScript.sml:1978]: same as above

File: pancake/proofs/loop_to_wordProofScript.sml [hunk 16]
```diff
@@ -1485,4 +1485,532 @@ Proof
...
+  TRY (rpt (pairarg_tac>>gs[]))>>
```
Comment (myreen) [inline pancake/proofs/loop_to_wordProofScript.sml:1979]: same as above

**Review by myreen — CHANGES_REQUESTED** [review]
There all too many uses of `TRY` here. One should strive to avoid use of `TRY` (and `CASE_TAC`).

**Comment by mktnk3** [comment]
This can be merged if Magnus is happy with the updates.
